US05399501
Covalent Binding of Recombinant HIV-1 gp41 to N-(5-dimethylaminonaphthalene-1-sulfonyl)-cysteine (Dansyl-cys) Derivatized Microparticles
A 5.0 ml solution of 10 mg/ml N,N'-didansyI-L-cystine (Sigma, St. Louis, Mo.) in 1:1, DMSO:5 mM 2-(N-Morpholino)-ethanesulfonic acid (MES, Sigma), pH 5.0 was added to a 5.0 ml suspension of amino-microparticles. Five milligrams of 1-Ethyl-3-(3-Dimethyl-aminopropyl) carbodiimide hydrochloride (EDC, Pierce) in 0.5 ml deionized water were added to the microparticle suspension. The mixture was rotated, end-over-end, at 20°-25° C for 2 hours. A second aliquot of 5 mg EDC in 0.5 ml deionized water was added, and the suspension was rotated another 2 hours. The derivatized microparticles were centrifuged, and the supernatant was discarded. The pellet was then resuspended in 15 ml of 0.1M dithiothreitol and rotated, end-over-end, for 1 hour. The suspension was centrifuged, and the supernatant was decanted and discarded. The thiolated microparticles were washed with 4 cycles of resuspending in 15 ml of 0.1% Tween-20 in PBS, centrifuging, and discarding the supernatant. The pelleted microparticles were then resuspended to a volume of 5.0 ml with PBS. The preparation of the gp41 specific binding member/coupling agent complex and its crosslinking to the thiolated microparticles were repeated substantially in accordance with the protocol described in Example 1. b and c.

reactant | N,N'-didansyI-L-cystine | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CSSC[C@@H](C(=O)O)NS(=O)(=O)C1=CC=CC=2C(N(C)C)=CC=CC12)C(=O)O | C30H34N4O8S4
reactant | DMSO | CS(=O)C | C2H6OS
reactant | 2-(N-Morpholino)-ethanesulfonic acid | 5 mM | C1COCC[NH+]1CCS(=O)(=O)[O-] | C6H13NO4S
reactant | water | O | H2O
solvent | dithiothreitol | 0.1M, 15 ml | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
product | N-(5-dimethylaminonaphthalene-1-sulfonyl)-cysteine | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)N[C@@H](CS)C(=O)O)C | C15H18N2O4S2
